US07550474B2
a. N-(6-Amino-2-methyl-pyridin-3-ylmethyl)-2-[6-cyano-3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-2-fluoro-phenyl]-acetamide hydrochloride
Prepared from N-(6-Amino-2-methyl-pyridin-3-ylmethyl)-2-[6-cyano-3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-2-fluoro-phenyl]-acetamide, as described in the previous step, using essentially the protocol given in Example 1m. 1H NMR (300 Hz, CD3OD) δ 8.69 (d, J=4.6 Hz, 1H), 8.10-8.00 (m, 1H), 7.83 (d, J=9.2 Hz, 1H), 7.77 (d, J=7.9 Hz, 1H), 7.67-7.57 (m, 1H), 7.33-7.24 (m, 1H), 6.91-6.78 (m, 2H), 4.27 (s, 2H), 4.13 (t, J=13.8 Hz, 2H), 3.74 (d, J=1.98 Hz, 2H), 2.51 (s, 3H); LC/MS (m/z) [M+1]+455.1 (calculated for C23H21F3N6O, 454.17). Elem. Anal. Calc. for free base •2.0 HCl •0.75H2O: C, 51.07; H, 4.57; N, 15.54. Found: C, 50.85; H, 4.31; N, 15.40.

reactant | N-(6-Amino-2-methyl-pyridin-3-ylmethyl)-2-[6-cyano-3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-2-fluoro-phenyl]-acetamide | NC1=CC=C(C(=N1)C)CNC(CC1=C(C(=CC=C1C#N)NCC(C1=NC=CC=C1)(F)F)F)=O | C23H21F3N6O
reactant | HCl | Cl | ClH
product | N-(6-Amino-2-methyl-pyridin-3-ylmethyl)-2-[6-cyano-3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-2-fluoro-phenyl]-acetamide hydrochloride | Cl.NC1=CC=C(C(=N1)C)CNC(CC1=C(C(=CC=C1C#N)NCC(C1=NC=CC=C1)(F)F)F)=O | InChI=1S/C23H21F3N6O.ClH/c1-14-16(6-8-20(28)32-14)12-30-21(33)10-17-15(11-27)5-7-18(22(17)24)31-13-23(25,26)19-4-2-3-9-29-19;/h2-9,31H,10,12-13H2,1H3,(H2,28,32)(H,30,33);1H
